US07517873B2
A solution of 1.9 g (0.011 mole) of 3-cyclobutylaminopropanoic acid ethyl ester in 7 mL of acetonitrile was added dropwise to a mixture of 1.74 g (0.09 mole) of 2,4-dichloro-5-nitro-pyrimidine and 2.07 g (0.021 mole) of potassium bicarbonate and 20 mL of acetonitrile at ambient temperature over 45 mins. The mixture was stirred for 2.5 hours, then diluted with 45 mL of ethyl acetate. The mixture was filtered, concentrated under reduced pressure and the residue purified by silica gel chromatography, eluting with hexanes-ethyl acetate (100:0-90:10) to give 1.7 g of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclobutyl-amino]-propanoic acid ethyl ester (IV-23).

reactant | 3-cyclobutylaminopropanoic acid ethyl ester | 0.011 mole, 1.9 g | C(C)OC(CCNC1CCC1)=O | C9H17NO2
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.09 mole, 1.74 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | potassium bicarbonate | 0.021 mole, 2.07 g | C([O-])(O)=O.[K+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 45 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclobutyl-amino]-propanoic acid ethyl ester | 1.7 g | C(C)OC(CCN(C1CCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C13H17ClN4O4
